US05270465
a) 4-Amino-2-[(4-chlorophenoxy)methyl]pteridine
Obtained using the procedure described in section c of Example 2, starting with 10.7 g (0.089 mole) of 3-amino-2-pyrazinecarbonitrile and 24.5 g (0.133 mole) of 2-(4-chlorophenoxy)acetamidine [prepared according to C. Djerassi and C. R. Scholz, U.S. Pat. No. 2,517,468; C.A. 1951, 45, 661f] in 320 ml of absolute ethanol. Refluxing time: 7 hours. Yld: 21.5 g (84%), m.p. 246°-248° C. (N,N-dimethylformamide).

reactant | 3-amino-2-pyrazinecarbonitrile | 0.089 mole, 10.7 g | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | 2-(4-chlorophenoxy)acetamidine | 0.133 mole, 24.5 g | ClC1=CC=C(OCC(=N)N)C=C1 | C8H9ClN2O
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | 320 ml | C(C)O | C2H6O
product | 4-Amino-2-[(4-chlorophenoxy)methyl]pteridine | NC1=NC(=NC2=NC=CN=C12)COC1=CC=C(C=C1)Cl | C13H10ClN5O
